US04244953
6-(4-Aminophenyl)-3-methyl-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridine
3-Methyl-6-(4-nitrophenyl)-1,2,4-triazolo[4,3-a]pyridine is treated with hydrogen in the presence of palladium on carbon to give the product of the Example.

reactant | 3-Methyl-6-(4-nitrophenyl)-1,2,4-triazolo[4,3-a]pyridine | CC1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C13H10N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
product | 6-(4-Aminophenyl)-3-methyl-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridine | NC1=CC=C(C=C1)C1CCC=2N(C1)C(=NN2)C | C13H16N4
